US05506267
6,7-dihydroxy-4-thiaoctanoic acid
6,7-dihydroxy-4-thiaoctanoic acid methyl ester as obtained in Reference Example 44 (1.47 g) was dissolved in a mixture of methanol (20 ml) and water (1 ml). To this solution, sodium methylate (1.5 ml) was added under ice cooling conditions, followed by stirring at room temperature for 1 day. To the reaction mixture, 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate; the solvent was distilled off under reduced pressure to yield the title compound (1.00 g, yield 73%) as a colorless oily substance.

reactant | 6,7-dihydroxy-4-thiaoctanoic acid methyl ester | COC(CCSCC(C(C)O)O)=O | C8H16O4S
reactant | sodium methylate | 1.5 ml | C[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 6,7-dihydroxy-4-thiaoctanoic acid | 1.00 g, yield 73% | OC(CSCCC(=O)O)C(C)O | C7H14O4S
